US07560551B2
To a mixture of 4-(2-chloropyridin-3-yl)-N-methylpyrimidin-2-amine (0.0500 g, 0.23 mmol), 4-((4-phenylphthalazin-1-yl)methyl)phenol (0.071 g, 0.23 mmol) and cesium carbonate (0.15 g, 0.45 mmol) was added DMSO (0.5 mL). The resulting mixture was heated to 130° C. in a sealed tube for 15 hours, then diluted with EtOAc and extracted with saturated sodium bicarbonate. The organic layer was dried over sodium sulfate, filtered and concentrated. The crude concentrate was purified by Gilson reverse-phase HPLC (0.1% TFA in ACN/water; 15-95% ACN; 40 mL/min). Diluted product with DCM and extracted with saturated sodium bicarbonate. Dried organics over sodium sulfate, filtered and concentrated. Lyophilized concentrate to obtained N-methyl-4-(2-(4-((4-phenylphthalazin-1-yl)methyl)phenoxy)pyridin-3-yl)pyrimidin-2-amine as a white solid. MS m/z=497 [M+H]+. Calc'd for C31H24N6O: 496.58.

reactant | 4-(2-chloropyridin-3-yl)-N-methylpyrimidin-2-amine | 0.23 mmol, 0.0500 g | ClC1=NC=CC=C1C1=NC(=NC=C1)NC | C10H9ClN4
reactant | 4-((4-phenylphthalazin-1-yl)methyl)phenol | 0.23 mmol, 0.071 g | C1(=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)CC1=CC=C(C=C1)O | C21H16N2O
reactant | cesium carbonate | 0.45 mmol, 0.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-methyl-4-(2-(4-((4-phenylphthalazin-1-yl)methyl)phenoxy)pyridin-3-yl)pyrimidin-2-amine | CNC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=C1)CC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C31H24N6O
